US06964974B2
To a solution of 0.4 g (1.47 mmol) 4-(4-Brom-butoxy)-piperidine hydrogen chloride and 0.198 ml (1.54 mmol) 4-chloro-benzoylchloride in 5 ml of CH2Cl2 was added 1 ml (5.87 mmol) of N-ethyldiisopropylamine. The reaction-mixture was stirred for 1 h at RT, diluted with Et2O and then washed with 1N HCl and water. The crude product was purified by chromatography on silica gel with EtOAc/hexane 1:1, to yield 459 mg (84%) of clean 4-(4-Bromo-butoxy)-piperidin-1-yl)-(4-chloro-phenyl)-methanone, MS: 374 (M+).

reactant | 4-(4-Brom-butoxy)-piperidine hydrogen chloride | 1.47 mmol, 0.4 g | Cl.BrCCCCOC1CCNCC1
reactant | 4-chloro-benzoylchloride | 1.54 mmol, 0.198 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | N-ethyldiisopropylamine | 5.87 mmol, 1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (4-chloro-phenyl)-methanone | ClC1=CC=C(C=C1)C=O | C7H5ClO
